US04746657
8-[2-[(Methyl)(phenyl)amino]ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one
A solution of 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one hydrochloride in excess N-methylaniline is heated to about 95° C. for 2 days. Excess N-methylaniline is removed at reduced pressure and the residue is taken up in chloroform. The chloroform layer is washed with dilute aqeuous base, decolorized with activated carbon and dried over sodium sulfate, filtered and concentrated. The residue is dissolved in a suitable solvent and purified by high pressure liquid chromatography using a silica gel column and ethyl acetate. The product is recrystallized from ethyl acetate.

reactant | 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one hydrochloride | Cl.ClCCC1CC2=C(C(N(C1)C)=O)C=CC=N2
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | 8-[2-[(Methyl)(phenyl)amino]ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one | CN(CCC1CC2=C(C(N(C1)C)=O)C=CC=N2)C2=CC=CC=C2 | C19H23N3O
